Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Conn's syndrome; aldosteroma
 
Major Surgical or Invasive Procedure:
  Laparoscopic left adrenalectomy.

 
History of Present Illness:
___ male with a history of HTN and hypokalemia x few years and a 
10 mm left adrenal nodule. He also notes that his history of 
hypokalemia dates back to ___. He takes Lisinopril and 
Spironolactone.  This was first noted as an incidental finding 
on a CT ABD in ___, and recent CT in ___ demonstrates the 
nodule is stable. Recently underwent adrenal vein sampling which 
demonstrated
hyperaldosteronism lateralized to the left. Of note, he has a 
history of hematuria, underwent a cystoscopy with Dr. ___ 
___, which was normal. 

He is followed by Nephrologist Dr. ___.

No constitutional symptoms.  In particular, denies fatigue, 
night sweats, new back or bony pain. He endorses constipation 
but denies chest pain and SOB. He denies testicular pain and 
history of vasectomy.

 
Past Medical History:
1. Hepatitis B: The patient was noted in ___ to have positive 
hepatitis B serology. He was HBS ag+ HBS ab- core ab+ This was 
repeated ___ years later that he has had persistent HBS ag 
positivity. During this time, his transaminases have remained 
within the normal range. His hepatitis B, virus DNA viral load 
was 259. No further rx. Patient states the diagnosis is in doubt 
per his PCP.  
2. Hyperlipidemia  
3. Seasonal allergies.  

PAST MEDICAL HISTORY: 
ALLERGIC RHINITIS                                               
CHRONIC HEPATITIS B                                             
HEMATURIA                                                       
HIP PAIN                                                        
PREVENTITIVE HEALTH                                             
PPD POSITIVE                                                    
HEPATITIS B                                                     
No history of MI, stroke, cardiac stent placement, DVT, or PE.
She has never been on anticoagulation medications.

Surgical History -
LIVER BIOPSY                          
  
 
Social History:
___
Family History:
Nephrolithiasis - no
Renal Cell CA   - no
Prostate CA     - no
Bladder CA      - no 

He is present with his daughter ___ in the office today.    

No history of early MI. His mother passed away  
from anthrax. His father is alive at ___ and healthy.  

 
Physical Exam:
WdWn, NAD, AVSS
Interactive, cooperative
Abdomen soft, appropriately tender along incisions
Incisions otherwise c/d/i
Extremities w/out edema or pitting and there is no reported calf 
pain to deep palpation

 
Pertinent Results:
___ 06:45AM BLOOD WBC-6.4 RBC-4.47* Hgb-13.0* Hct-38.0* 
MCV-85 MCH-29.1 MCHC-34.2 RDW-12.6 RDWSD-39.2 Plt ___

___ 06:45AM BLOOD Glucose-74 UreaN-9 Creat-0.8 Na-141 K-3.6 
Cl-105 HCO3-22 AnGap-14

___ 06:45AM BLOOD Calcium-8.2* Mg-1.7
 
Brief Hospital Course:
Mr. ___ was admitted to Urology after undergoing laparoscopic 
laparoscopic left adrenalectomy. No concerning intraoperative 
events occurred; please see dictated operative note for details. 
The patient received perioperative antibiotic prophylaxis. The 
patient was transferred to the floor from the PACU in stable 
condition. On POD0, pain was well controlled on PCA, hydrated 
for urine output >30cc/hour, provided with pneumoboots and 
incentive spirometry for prophylaxis, and ambulated once. He 
voided on POD0.  On POD1, the patient was restarted on  
appropriate home medications (KCL and spironolactone were held), 
basic metabolic panel and complete blood count were checked, 
pain control was transitioned from PCA to oral analgesics, diet 
was advanced to a clears/toast and crackers diet. His blood 
pressures were stable and his pain well controlled. Mr. ___ as 
discharged in stable condition, eating well, ambulating 
independently, voiding without difficulty, and with pain control 
on oral analgesics. On exam, incision was clean, dry, and 
intact, with no evidence of hematoma collection or infection. 
The patient was given explicit instructions to follow-up in 
clinic in three weeks.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
2. Lisinopril 20 mg ___ DAILY 
3. Omeprazole 40 mg ___ DAILY 
4. Simvastatin 20 mg ___ QPM 
5. Acetaminophen 650 mg ___ Q8H:PRN Pain - Mild/Fever 
6. Cetirizine 10 mg ___ DAILY:PRN allergic rhinitis 
7. Hydrocortisone Acetate Suppository ___ID:PRN 
hemorrhoid pain 
8. Ibuprofen 600 mg ___ Q6H:PRN Pain - Mild 
9. Potassium Chloride 8 mEq ___ WITH EACH MEAL. 
10. Spironolactone 50 mg ___ DAILY 

 
Discharge Medications:
1.  Docusate Sodium 100 mg ___ BID 
RX *docusate sodium [Colace] 100 mg one capsule(s) by mouth 
twice a day Disp #*60 Capsule Refills:*0 
2.  OxyCODONE (Immediate Release) 5 mg ___ Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg one tablet(s) by mouth q6HRS Disp #*10 Tablet 
Refills:*0 
3.  Acetaminophen 650 mg ___ Q8H:PRN Pain - Mild/Fever 
Do not exceed 4 gm acetaminophen per 24 hrs.    
4.  Cetirizine 10 mg ___ DAILY:PRN allergic rhinitis  
5.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
6.  Hydrocortisone Acetate Suppository ___ID:PRN 
hemorrhoid pain  
7.  Ibuprofen 600 mg ___ Q6H:PRN Pain - Mild 
RX *ibuprofen 600 mg ONE tablet(s) by mouth Q8hrs Disp #*25 
Tablet Refills:*0 
8.  Lisinopril 20 mg ___ DAILY 
Hold for SBP <110 or HR <55  
9.  Omeprazole 40 mg ___ DAILY  
10.  Simvastatin 20 mg ___ QPM  
11.Blood Pressure Monitoring
-You may resume the LISINOPRIL but do NOT resume potassium 
chloride or spirinolactone. You should continue to monitor you 
BP at least twice per day. Keep track of your BP in a log book 
and present data to endocrinologist at follow up. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Neoplasm of uncertain behavior of unspecified adrenal gland 
Left adrenal adenoma 
Conn's syndrome 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please also refer to the provided “handout” that details 
instructions and expectations for your post-operative phase as 
made available by your urologist. 

-Resume your pre-admission/home medications except as noted. 
ALWAYS call to inform, review and discuss any medication changes 
and your post-operative course with your primary care doctor.

-___ reduce the strain/pressure on your abdomen and incision 
sites; remember to “log roll” onto your side and then use your 
hands to push yourself upright while taking advantage of the 
momentum of putting your legs/feet to the ground.

--The incisions sites may look wet because of the "skin glue". 
Do not peel or scrub. You may shower/get wet. 

-You may resume the LISINOPRIL but do NOT resume potassium 
chloride or spirinolactone. You should continue to monitor you 
BP at least twice per day. Keep track of your BP in a log book 
and present data to endocrinologist at follow up. If you 
systollic BP is less than 120; skip a dose. 

IF PRESCRIBED (see the MEDICATION RECONCILIATION):
-IBUPROFEN (the ingredient of Advil, Motrin, etc.) may be taken 
even though you may also be taking Tylenol/Acetaminophen. You 
may alternate these medications for pain control.  

For pain control, try TYLENOL (acetaminophen) FIRST, then 
ibuprofen, and then take the narcotic pain medication as 
prescribed if additional pain relief is needed.

-Ibuprofen should always be taken with food. Please discontinue 
taking and notify your doctor should you develop blood in your 
stool (dark, tarry stools)

-Call your Urologist's office to schedule/confirm your follow-up 
appointment in 3 weeks AND if you have any questions

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated

-No vigorous physical activity or sports for 4 weeks or until 
otherwise advised. Light household chores/activity and leisurely 
walking/activity is OK and should be continued. Do NOT be a 
“couch potato”

-Tylenol should be your first-line pain medication. A narcotic 
pain medication has been prescribed for breakthrough pain ___.

-Max daily Tylenol (acetaminophen) dose is THREE to FOUR grams 
from ALL sources

•AVOID lifting/pushing/pulling items heavier than 10 pounds (or 
3 kilos; about a gallon of milk) or participate in high 
intensity physical activity (which includes intercourse) until 
you are cleared by your Urologist in follow-up.

-No DRIVING for TWO WEEKS or until you are cleared by your 
Urologist

-You may shower normally but do NOT immerse your incisions or 
bathe

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery

-You may be given “prescriptions” for a stool softener and/or a 
gentle laxative. These are  over-the-counter medications that 
may be “health care spending account reimbursable.” 

-Colace (docusate sodium) may have been prescribed to avoid 
post-surgical constipation or constipation related to use of 
narcotic pain medications. Discontinue if loose stool or 
diarrhea develops. Colace is a stool-softener, NOT a laxative.

-Senokot (or any gentle laxative) may have been prescribed to 
further minimize your risk of constipation. 
 
Followup Instructions:
___